US06166028
N-(4-Amino-3-cyanophenyl)-2-fluoro-benzamide
Potassium carbonate (5.0 g) is added to a solution of N-[3-cyano-4-(2,2,2-trifluoroacetyl-amino)-phenyl]-2-fluoro-benzamide (2.5 g) in methanol (270 mL) and water (16 mL) and the mixture is refluxed overnight. After removing the solvent under reduced pressure, the residue is suspended in water and extracted with dichloromethane. The organic extracts are pooled, washed with water and then saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to provide the desired compound as a white solid.

reactant | Potassium carbonate | 5.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-[3-cyano-4-(2,2,2-trifluoroacetyl-amino)-phenyl]-2-fluoro-benzamide | 2.5 g | C(#N)C=1C=C(C=CC1NC(C(F)(F)F)=O)NC(C1=C(C=CC=C1)F)=O | C16H9F4N3O2
solvent | methanol | 270 mL | CO | CH4O
solvent | water | 16 mL | O | H2O
product | N-(4-Amino-3-cyanophenyl)-2-fluoro-benzamide | NC1=C(C=C(C=C1)NC(C1=C(C=CC=C1)F)=O)C#N | C14H10FN3O
